US05760143
A three liter-volume three-necked flask was charged with 144 g (1.27 mol) of caprolactam, 2 liters of toluene and 1 liter of pyridine, and the content was stirred at 0° C. under a nitrogen gas atmosphere. Then 256.5 g (1.27 mol) of p-sulfinylaminobenzoyl chloride, synthesized in Synthesis Example 1, was added into the flask, and the mixture was gently stirred until the temperature reached room temperature. Thereafter the content was stirred for 14 hours to conduct a reaction. Pyridine hydrochloride, thus precipitated, was filtered and the filtrate was washed twice with aqueous 5% sodium hydrogencarbonate. The solvent was distilled off under a reduced pressure from the organic phase to afford a white residue. The white residue was twice recrystallized from ethyl acetate to give N-(p-aminobenzoyl)caprolactam having a melting point of 156°-158° C. in a yield of 68%.

reactant | caprolactam | 1.27 mol, 144 g | C1(CCCCCN1)=O | C6H11NO
reactant | toluene | 2 liters | C1(=CC=CC=C1)C | C7H8
reactant | p-sulfinylaminobenzoyl chloride | 1.27 mol, 256.5 g | S(=O)=NC1=CC=C(C(=O)Cl)C=C1 | C7H4ClNO2S
solvent | pyridine | 1 liter | N1=CC=CC=C1 | C5H5N
product | N-(p-aminobenzoyl)caprolactam | yield of 68% | NC1=CC=C(C(=O)N2C(CCCCC2)=O)C=C1 | C13H16N2O2
